US09388189B2
(S)-4-Amino-6-((1-(5-((3-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-2-(1-Aminoethyl)-5-((3-methoxyphenyl)thio)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (103 mg, 0.24 mmol) was treated with 4-amino-6-chloropyrimidine-5-carbonitrile (55 mg, 0.36 mmol),), N,N-diisopropylethylamine (126 μl, 0.72 mmol) and tert-butanol as a solvent according to the method described in Example 17. The crude was purified by reverse phase using SP1® Purification to give 70 mg (57% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)-2-(1-Aminoethyl)-5-((3-methoxyphenyl)thio)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.24 mmol, 103 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)SC2=CC(=CC=C2)OC | C21H20N4O2S
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 0.36 mmol, 55 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | N,N-diisopropylethylamine | 0.72 mmol, 126 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | (S)-4-Amino-6-((1-(5-((3-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile | 70 mg, 57% yield | NC1=NC=NC(=C1C#N)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)SC2=CC(=CC=C2)OC | C26H22N8O2S
